US08097610B2
A mixture of Ethyl 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}benzoate (0.30 g; 6.671 mmol), 2N-aqueous sodium hydroxide (1.5 ml) and methanol (3 ml) was stirred at 60° C. for 1 hour. The reaction solution was condensed under reduced pressure. To the residue were added water and 2N aqueous hydrochloric acid to be neutral. The precipitate was collected and washed with water and diisopropyl ether to give 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}benzoic acid as colorless crystal (0.26 g; 93%).

reactant | Ethyl 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}benzoate | 6.671 mmol, 0.30 g | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCOC=2C=C(C(=O)OCC)C=CC2)C=C1 | C23H25ClN2O3S
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | methanol | 3 ml | CO | CH4O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 3-{2-[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]ethoxy}benzoic acid | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCOC=2C=C(C(=O)O)C=CC2)C=C1 | C21H21ClN2O3S
